US05180742
4-Phenyl-4-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)butanoic acid (1.2 g) was dissolved in ethanol (50 ml), and thionyl chloride (0.4 ml) was added to the solution, followed by stirring at room temperature for 4 hours. After the reaction solution was concentrated under reduced pressure, the resulting residue was dissolved in isopropyl ether, and the organic layer was washed with water, dried and concentrated under reduced pressure. The residue was chromatographed on a silica gel column, and the object compound was eluted with isopropyl ether to give ethyl 4-phenyl-4-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)butanoate (1.1 g, 84%). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this example, the Compound No. 42 was prepared.

reactant | 4-Phenyl-4-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)butanoic acid | 1.2 g | C1(=CC=CC=C1)C(CCC(=O)O)C=1C(C(=C(C(C1C)=O)C)C)=O | C19H20O4
reactant | thionyl chloride | 0.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4-phenyl-4-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)butanoate | 1.1 g, 84% | C1(=CC=CC=C1)C(CCC(=O)OCC)C=1C(C(=C(C(C1C)=O)C)C)=O | C21H24O4
